US08378104B2
Step B: 4,5-dibromonicotinic Acid Ethyl Ester
A suspension of 4,5-dibromonicotinic acid (10 g, 36 mmol) in acetonitrile (160 mL) under nitrogen was treated with 1,1′-carbonyldiimidazole (8.65 g, 53.4 mmol) in portions over 10 min. The resulting mixture was stirred for 3 h at room temperature. Ethanol (24 mL) was added and the mixture was heated to 55° C. for 16 h. The solution was then filtered and the filtrate evaporated in vacuo. The residual oil was dissolved in ethyl acetate and the solution was washed with water followed by brine. The organic fraction was then dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography to afford 9 g (82%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.70 (s, 1H), 8.74 (s, 1H), 4.44 (q, J=7.1 Hz, 2H), 1.42 (t, J=7.1 Hz, 3H).

reactant | 4,5-dibromonicotinic acid | 36 mmol, 10 g | BrC1=C(C=NC=C1C(=O)O)Br | C6H3Br2NO2
reactant | 1,1′-carbonyldiimidazole | 53.4 mmol, 8.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ethanol | 24 mL | C(C)O | C2H6O
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
product | 4,5-dibromonicotinic Acid Ethyl Ester | 9 g, 82% | C(C)OC(C1=CN=CC(=C1Br)Br)=O | C8H7Br2NO2
